US04743667
The reaction vessel was a flask equipped with a stirring device, a thermometer, a dropping funnel and fitted with a reflux condenser and a drying tube. The flask charged with about one mole of allyloxyethyl methacrylate and about 1×10-5 moles of a platinum catalyst. The mixture heated to about 50° C. and maintained at 50° C. for 15 minutes. The temperature of the reaction mixture was cooled down to 20° C. with a water bath. When the temperature had reached 20° C., 1.1 moles of dimethylethoxysilane was added to the mixture with the temperature being held at 20° C. during dimethylethoxysilane addition, and stirred for 24 hours. Fractionation of the resulting gave methacryloxyethoxypropyl dimethyl ethoxysilane which had a vacuum boiling point of about 115° C. at 4 mm Hg.

reactant | allyloxyethyl methacrylate | about one mole | C(C(=C)C)(=O)OCCOCC=C | C9H14O3
reactant | dimethylethoxysilane | 1.1 moles | C[SiH](OCC)C | C4H12OSi
catalyst | platinum | about 1×10-5 moles | [Pt] | Pt
product | methacryloxyethoxypropyl dimethyl ethoxysilane | C(C(=C)C)(=O)OCCOCCC[Si](OCC)(C)C | C13H26O4Si
